US06013658
Thionyl chloride (5 ml) was added dropwise over 15 min. to a suspension of (R)-3-(2-naphthyl)alanine (5.0 g) in methanol (50 ml) at 35° C. After addition the mixture was heated at 60° C. for 1 h, cooled and the solvent removed in vacuo. Water (75 ml) and ethyl acetate (125 ml) were added and pH was adjusted to 8.5 with sodium carbonate. The organic phase was separated and dried (magnesium sulfate) to afford 4.86 g of (R)-3-(2-naphthyl)alanine methyl ester.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-3-(2-naphthyl)alanine | 5.0 g | C1=C(C=CC2=CC=CC=C12)C[C@@H](N)C(=O)O | C13H13NO2
reactant | methanol | 50 ml | CO | CH4O
product | (R)-3-(2-naphthyl)alanine methyl ester | 4.86 g | COC([C@H](N)CC1=CC2=CC=CC=C2C=C1)=O | C14H15NO2
